US03935271
7-Isopropoxy-5-methyl-4-heptenal
15.8 g (0.1 mol) of 5-isopropoxy-3-methyl-1-penten-3-ol and 20.0 g of mercuric acetate in 180 cc of ethyl vinyl ether are maintained at reflux temperature over the course of 4 days. 0.9 cc of glacial acetic acid is added at 20° to the turbid solution. After 3 hours 150 cc of 5 % potassium carbonate solution are added and the product is extracted with hexane. The hexane extract is dried with sodium sulphate and evaporated. The residue is heated to 165°-168° over the course of 11/2 hours without further purification and in an atomosphere of nitrogen; the residue is subsequently distilled at reduced pressure. The 7-isopropoxy-5-methyl-4-heptenal has a B.P. of 70°-73°/0.8 mm.

reactant | 5-isopropoxy-3-methyl-1-penten-3-ol | 0.1 mol, 15.8 g | C(C)(C)OCCC(C=C)(O)C | C9H18O2
reactant | acetic acid | 0.9 cc | C(C)(=O)O | C2H4O2
reactant | potassium carbonate | 150 cc | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl vinyl ether | 180 cc | C(=C)OCC | C4H8O
product | 7-Isopropoxy-5-methyl-4-heptenal | C(C)(C)OCCC(=CCCC=O)C | C11H20O2
